US05451700
A stirred, 0° C. solution of 4-[5-[4-(aminoiminomethyl)phenoxy]pentoxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide monohydrochloride (200 mg, 0.41 mmol) in 4.0 mL anhydrous methylene chloride is treated sequentially with triethylamine (0.068 mL, 0.48 mmol) and methyl isocyanate (0.030 mL, 0.49 mmol). The solution is stirred 30 minutes, concentrated in vacuo and the resulting solids are partitioned between ethyl acetate and water. The organic layer is washed with water and brine, dried over sodium sulfate and concentrated. The resulting material is purified by chromatography on silica gel (15 g) with 70-100% ethyl acetate/hexanes as the eluent to afford 4-[5-[4-[amino(methylaminocarbonylimino)methyl]phenoxy]pentoxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide as a colorless foam;

reactant | 4-[5-[4-(aminoiminomethyl)phenoxy]pentoxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide monohydrochloride | 0.41 mmol, 200 mg | Cl.NN=CC1=CC=C(OCCCCCOC2=C(C=C(C(=O)N(C(C)C)C(C)C)C=C2)OC)C=C1
reactant | triethylamine | 0.48 mmol, 0.068 mL | C(C)N(CC)CC | C6H15N
reactant | methyl isocyanate | 0.49 mmol, 0.030 mL | CN=C=O | C2H3NO
solvent | methylene chloride | 4.0 mL | C(Cl)Cl | CH2Cl2
product | 4-[5-[4-[amino(methylaminocarbonylimino)methyl]phenoxy]pentoxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide | NC(C1=CC=C(OCCCCCOC2=C(C=C(C(=O)N(C(C)C)C(C)C)C=C2)OC)C=C1)=NC(=O)NC | C28H40N4O5
